US07674822B2
Sodium triacetoxyborohydride (90 mg, 0.42 mmol, 2.5 equiv) was added to a mixture of 1-ethoxycarbonylmethoxy-2-methoxycarbonyl-3,8-dithia-cyclopenta[a]inden-6-yl-ammonium trifluoroacetate (85 mg, 0.17 mmol), tetrahydropyran-4-one (24 μl, 0.2 mmol, 1.2 equiv), and acetic acid (5 μl) in DCE (4 ml) and stirred at 50° C. for 17 hr. DCM (20 ml) was added and the mixture was washed with sat. NaHCO3, dried over MgSO4, filtered, and the solvent was reoved in vacuo. Purification by column chromatography yielded 72 mg (94%) of 1-ethoxycarbonylmethoxy-6-(tetrahydropyran-4-ylamino)-3,8-dithiacyclopenta[a]indene-2-carboxylic acid methyl ester.

reactant | Sodium triacetoxyborohydride | 0.42 mmol, 90 mg, 2.5 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-ethoxycarbonylmethoxy-2-methoxycarbonyl-3,8-dithia-cyclopenta[a]inden-6-yl-ammonium trifluoroacetate | 0.17 mmol, 85 mg | FC(C(=O)[O-])(F)F.C(C)OC(=O)COC1=C(SC2=C1SC=1C=C(C=CC21)[NH3+])C(=O)OC
reactant | tetrahydropyran-4-one | 0.2 mmol, 24 μl, 1.2 equiv | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 5 μl | C(C)(=O)O | C2H4O2
solvent | DCE | 4 ml | ClCCCl | C2H4Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-ethoxycarbonylmethoxy-6-(tetrahydropyran-4-ylamino)-3,8-dithiacyclopenta[a]indene-2-carboxylic acid methyl ester | 72 mg, 94% | COC(=O)C1=C(C2=C(C=3C=CC(=CC3S2)NC2CCOCC2)S1)OCC(=O)OCC | C21H23NO6S2
